US06740662B1
A DMF solution of 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine was treated with 60% sodium hydride and then reacted with monoethyl chloroglutarate under heating. Thereafter, the whole was worked up and purified in a usual manner to obtain ethyl 4-{N-[3-(3-chlorobenzoyl)-6-methylpyridin-2-yl]-N-ethylcarbamoyl}butanoate. The resulting compound was reacted with sodium methoxide in ethanol under heating, then concentrated sulfuric acid was added to the reaction mixture, followed by reaction under heating for 2 days. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain ethyl 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate. MS: 399.

reactant | 3-(3-chlorobenzoyl)-2-ethylamino-6-methylpyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C)NCC)C=CC1 | C15H15ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | monoethyl chloroglutarate | ClC(C(=O)OCC)CCC(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 4-{N-[3-(3-chlorobenzoyl)-6-methylpyridin-2-yl]-N-ethylcarbamoyl}butanoate | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C)N(C(=O)CCCC(=O)OCC)CC)C=CC1 | C22H25ClN2O4
